US09193726B2
Step 1. Synthesis of 1-[4-(trifluoromethyl)phenyl]hex-5-en-1-ol (C70)
A mixture of 5-bromopent-1-ene (6.0 g, 40 mmol) and magnesium (1.44 g, 59.2 mmol) in tetrahydrofuran (40 mL) was stirred at 0° C. for 30 minutes. 4-(Trifluoromethyl)benzaldehyde (4.6 g, 26 mmol) was added drop-wise, and the reaction mixture was stirred at room temperature for 4 hours, then quenched by addition of water (30 mL). After extraction with ethyl acetate (3×15 mL), the combined organic layers were washed with saturated aqueous sodium chloride solution (10 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford the product as a yellow oil. This was used without additional purification. Yield: 2.6 g, 11 mmol, 42%. 1H NMR (400 MHz, CDCl3) δ 7.58-7.64 (m, 2H), 7.44-7.50 (m, 2H), 5.72-5.84 (m, 1H), 4.93-5.04 (m, 2H), 4.73-4.79 (m, 1H), 2.05-2.13 (m, 2H), 1.64-1.85 (m, 2H), 1.47-1.60 (m, 1H), 1.34-1.47 (m, 1H).

reactant | 5-bromopent-1-ene | 40 mmol, 6.0 g | BrCCCC=C | C5H9Br
reactant | magnesium | 59.2 mmol, 1.44 g | [Mg] | Mg
reactant | 4-(Trifluoromethyl)benzaldehyde | 26 mmol, 4.6 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-[4-(trifluoromethyl)phenyl]hex-5-en-1-ol | FC(C1=CC=C(C=C1)C(CCCC=C)O)(F)F | C13H15F3O
